US05256673
36 g of 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-hydroxymethylindole are dissolved in 1.6 liters of THF, and 300 ml of ether are added. 55 g of MnO2 are added with stirring. The mixture is stirred for 16 hours at 20°, a further 100 g of MnO2 are added in portions, and stirring is continued for a further 100 hours at 20°. Filtration and working up in the customary manner gives 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-formylindole, m.p. 131°.

reactant | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-hydroxymethylindole | 36 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)CO | C24H28N2O
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | THF | 1.6 liters | C1CCOC1 | C4H8O
catalyst | MnO2 | 55 g | O=[Mn]=O
catalyst | MnO2 | 100 g | O=[Mn]=O
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-formylindole | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C=O | C24H26N2O
